US07718671B2
A solution of 4-Nitro-1-pentyloxy-2-trifluoromethyl-benzene (1.2 g, 4.8 mmole) and 0.1 g of 10% Palladium on activated carbon in 40 mL of ethanol is hydrogenated with hydrogen balloon at room temperature overnight. Filtration and concentration gave a pink oil 1.2 g (100%) of 4-Pentyloxy-3-trifluoromethyl-phenylamine MS: 248 (M+1).

reactant | 4-Nitro-1-pentyloxy-2-trifluoromethyl-benzene | 4.8 mmole, 1.2 g | [N+](=O)([O-])C1=CC(=C(C=C1)OCCCCC)C(F)(F)F | C12H14F3NO3
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on activated carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-Pentyloxy-3-trifluoromethyl-phenylamine | 1.2 g, 100% | C(CCCC)OC1=C(C=C(C=C1)N)C(F)(F)F | C12H16F3NO
